US05849732
To a suspension of 63 g of 62.5% sodium hydride and 2500 ml of dimethylformamide (DMF) was added dropwise under ice-cooling 3000 ml of a tetrahydrofuran (THF) solution containing 472 g of 2-(4-methoxyphenylazo)-4-methoxy-6-tert-butylphenol. After elevating the temperature to room temperature, the mixture was ice-cooled again, and 133 g of methoxymethyl chloride was added dropwise. After stirring at room temperature for 2 hours, 300 ml of an aqueous saturated ammonium chloride solution was gradually added dropwise to the mixture. THF was removed under reduced pressure, and a saturated saline solution was added to the residue. The mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. The precipitated crystals were recrystallized from a mixed solution of hexane and ethyl acetate to give 520 g of [2-(4-methoxyphenylazo)-4-methoxy-6-tert-butylphenoxy]methoxymethane (yield: 97%, melting point: 102°-103° C., IR: 1610 cm-1).

reactant | sodium hydride | 63 g | [H-].[Na+]
reactant | 2-(4-methoxyphenylazo)-4-methoxy-6-tert-butylphenol | 472 g | COC1=CC=C(C=C1)N=NC1=C(C(=CC(=C1)OC)C(C)(C)C)O | C18H22N2O3
reactant | methoxymethyl chloride | 133 g | COCCl | C2H5ClO
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3000 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2500 ml | CN(C=O)C | C3H7NO
product | [2-(4-methoxyphenylazo)-4-methoxy-6-tert-butylphenoxy]methoxymethane | 520 g, yield: 97% | COC1=CC=C(C=C1)N=NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C | C20H26N2O4
